US05047411
A mixture of 2-amino-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole dihydrochloride (2.0 g) in 1N hydrochloric acid (25.3 ml) was was refluxed for 21 hours. The reaction mixture was added to water (50 ml) under ice-cooling and the resulting precipitate was collected by filtration. A mixture of obtained residue and water was adjusted to pH 8 with 20% potassium carbonate aqueous solution under stirring. A precipitate was collected by filtration and dried to give 2-hydroxy-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (0.98 g).

reactant | 2-amino-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole dihydrochloride | 2.0 g | Cl.Cl.NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)OC)C2C
reactant | water | 50 ml | O | H2O
solvent | hydrochloric acid | 1N, 25.3 ml | Cl | ClH
product | 2-hydroxy-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 0.98 g | OC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)OC)C2C | C18H17N3O3
